US04144248
Methyl α-methylthio(p-phthalimidophenyl)acetate (978 mg) was dissolved in 10 ml of anhydrous dimethylformamide, and under ice cooling, 120 mg of sodium hydride (65% content) was added. The mixture was stirred for 10 minutes. Then, 0.25 ml of methyl iodide was gradually added. The temperature was adjusted to room temperature, and the mixture was stirred for 5 minutes. An aqueous solution of ammonium chloride (500 mg/30 ml) was added, and the mixture was extracted four times with 20 ml of methylene chloride. The organic layer was washed with 10 ml of water, dried over anhydrous sodium sulfate, and then concentrated under reduced pressure. The residue was washed with 20 ml of hexane to afford 788 mg of methyl α-methylthio-α-(p-phthalimidophenyl)propionate as colorless crystals in a yield of 77%.

reactant | Methyl α-methylthio(p-phthalimidophenyl)acetate | 978 mg | CSC(C(=O)OC)C1=CC=C(C=C1)N1C(C=2C(C1=O)=CC=CC2)=O | C18H15NO4S
reactant | sodium hydride | 120 mg | [H-].[Na+]
reactant | methyl iodide | 0.25 ml | CI | CH3I
reactant | ammonium chloride | 30 ml, 500 mg | [Cl-].[NH4+]
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | methyl α-methylthio-α-(p-phthalimidophenyl)propionate | 788 mg, yield of 77% | CSC(C(=O)OC)(C)C1=CC=C(C=C1)N1C(C=2C(C1=O)=CC=CC2)=O | C19H17NO4S
